US07446222B2
c) 5-Chloro-2-isobutoxy-[1,1′;2′,1″]terphenyl-2″-carboxylic acid ethyl ester
Prepared as in procedure A from 5-chloro-2-hydroxy-[1,1′;2′,1″]terphenyl-2″-carboxylic acid ethyl ester and 1-bromo-2-methyl-propane.

reactant | 5-chloro-2-hydroxy-[1,1′;2′,1″]terphenyl-2″-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=CC=CC1)C=1C(=CC=CC1)C1=C(C=CC(=C1)Cl)O | C21H17ClO3
reactant | 1-bromo-2-methyl-propane | BrCC(C)C | C4H9Br
product | 5-Chloro-2-isobutoxy-[1,1′;2′,1″]terphenyl-2″-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=CC=CC1)C=1C(=CC=CC1)C1=C(C=CC(=C1)Cl)OCC(C)C | C25H25ClO3
